US09353085B2
20 g of 3-bromocarbazole was converted to its acetyl derivative by refluxing with acetic anhydride (3 vol) with traces of conc. sulfuric acid. Aqueous workup yielded an off-white solid, which was then washed with n-hexane and dried under vacuum to obtain 23 g 9-acetyl-3-bromocarbazole, quantitatively. And N-acetyl derivative of carbazole, benzocarbaole and dibenzocarbazoles were prepared following the same procedure.

reactant | 3-bromocarbazole | 20 g | BrC=1C=CC=2NC3=CC=CC=C3C2C1 | C12H8BrN
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 9-acetyl-3-bromocarbazole | 23 g | C(C)(=O)N1C2=CC=CC=C2C=2C=C(C=CC12)Br | C14H10BrNO
